US07417060B2
To a solution of 4-bromo-1-chloromethyl-2-cyclohexyloxybenzene (5.58 g) in ethanol (55.8 ml) were added potassium iodide (3.36 g) and potassium cyanide (1.56 g) at room temperature under nitrogen, and the mixture was stirred at 70° C. for 80 minutes. The resulting mixture was poured into water and the aqueous layer was extracted with toluene. The organic layer was washed successively with water and brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel (hexane/toluene=2:1 to 1:1) to give (4-bromo-2-cyclohexyloxyphenyl)acetonitrile (1.51 g).

reactant | 4-bromo-1-chloromethyl-2-cyclohexyloxybenzene | 5.58 g | BrC1=CC(=C(C=C1)CCl)OC1CCCCC1 | C13H16BrClO
reactant | potassium iodide | 3.36 g | [I-].[K+]
reactant | potassium cyanide | 1.56 g | [C-]#N.[K+]
reactant | water | O | H2O
solvent | ethanol | 55.8 ml | C(C)O | C2H6O
product | (4-bromo-2-cyclohexyloxyphenyl)acetonitrile | 1.51 g | BrC1=CC(=C(C=C1)CC#N)OC1CCCCC1 | C14H16BrNO
